US04933330
Ethyl 2-hydroxy-5-aminobenzoate
2-Hydroxy-5-aminobenzoic acid (40 g, 0.26 mole) was mixed with absolute ethanol (1 1) and concentrated sulphuric acid (40 ml) was slowly added after which the mixture was refluxed for 48 hours under nitrogen. The cooled reaction mixture was concentrated to about 350 ml, in vacuo, neutralized with 1M aqueous sodium hydrogen carbonate and extracted with ether (3×150 ml). The ethereal solution was washed with 1M sodium hydrogen carbonate (2×75 ml), water (2×75 ml), dried over anhydrous magnesium sulphate (25 g), activated carbon (2 g) was added, the solution was filtered and the filtrate evaporated to dryness. The product was recrystallized from water-ethanol (3:1) to give the title compound (10 g, 21%), m.p. 40°-43°. Found (Calc. for C9H11NO3) C 59.59 (59.66), H 6.13 (6.08), N 7.66 (7.73).

reactant | 2-Hydroxy-5-aminobenzoic acid | 0.26 mole, 40 g | OC1=C(C(=O)O)C=C(C=C1)N | C7H7NO3
reactant | sulphuric acid | 40 ml | S(O)(O)(=O)=O | H2O4S
reactant | ethanol | C(C)O | C2H6O
product | Ethyl 2-hydroxy-5-aminobenzoate | 10 g, 21% | OC1=C(C(=O)OCC)C=C(C=C1)N | C9H11NO3
